US07547691B2
(A). Preparation of racemic 3-isopropylpiperazine-1-carboxylic acid tert-butyl ester
Di-tert-butyl dicarbonate (7.37 g, 33.8 mmol) is added to a stirred solution of racemic 2-isopropylpiperazine (4.80 g, 37.5 mmol) in anhydrous dichloromethane (50 mL) at 0° C., then the mixture is stirred at room temperature for 16 hours. After concentration and subsequent chromatographic purification on silica gel, eluting with 2 M NH3/MeOH in dichloromethane 1-3%, the title compound is isolated as oil (5.3 g, 62% yield).

reactant | Di-tert-butyl dicarbonate | 33.8 mmol, 7.37 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | racemic 2-isopropylpiperazine | 37.5 mmol, 4.80 g | C(C)(C)C1NCCNC1 | C7H16N2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | racemic 3-isopropylpiperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(NCC1)C(C)C | C12H24N2O2
